US08530648B2
2-((1H-indol-4-yl)methyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
To a solution of 9-quinoxalin-2-yl-2,9-diaza-spiro[5.5]undecan-1-one (100 mg, 0.34 mmol) in THF (5 ml) sodium hydride 95% (18 mg, 0.74 mmol) was added and the mixture was stirred for 10 min at rt. Then 4-bromomethyl-1-(toluene-4-sulfonyl)-1H-indole (147 mg, 0.4 mmol) was added and the reaction mixture was heated at 50° C. over 18 h. Saturated aqueous NH4Cl solution (50 ml) was added and the reaction mixture was extracted with methylene chloride. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting crude product was purified by flash chromatography (EtOAc/hexane 4:6) to yield 80 mg (55%) of the title compound. [1H NMR (DMSO, 600 MHz) δ 11.14 (br.s, 1H), 8.84 (s, 1H), 7.81 (d, 1H, J=8.28 Hz), 7.63-7.52 (m, 2H), 7.44-7.34 (m, 2H), 7.34-7.25 (m, 2H), 7.03 (t, 1H), 6.82 (d, 1H, J=7.06 Hz), 6.43 (br.s., 1H), 4.76 (s, 2H), 4.35-4.25 (m, 2H), 3.48-3.38 (2H, m), 3.13 (t, 2H), 2.21-2.04 (m, 2H), 1.91-1.80 (m, 2H), 1.77-1.65 (m, 2H), 1.62-1.52 (m, 2H), LCMS RtE=2.70 min, [M+H]+=426.4].

reactant | 9-quinoxalin-2-yl-2,9-diaza-spiro[5.5]undecan-1-one | 0.34 mmol, 100 mg | N1=C(C=NC2=CC=CC=C12)N1CCC2(CCCNC2=O)CC1 | C17H20N4O
reactant | THF | 0.74 mmol, 5 ml, 18 mg | C1CCOC1 | C4H8O
reactant | 4-bromomethyl-1-(toluene-4-sulfonyl)-1H-indole | 0.4 mmol, 147 mg | BrCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H14BrNO2S
solvent | NH4Cl | 50 ml | [NH4+].[Cl-]
product | 2-((1H-indol-4-yl)methyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 80 mg, 55% | N1C=CC2=C(C=CC=C12)CN1C(C2(CCC1)CCN(CC2)C2=NC1=CC=CC=C1N=C2)=O | C26H27N5O
